US07091237B2
4-methyl-2-[4-(trifluoromethyl)phenyl]thiophene
To a solution of 3-methylthiophene (2.31 ml) in anhydrous THF (75 ml) at −78° C. under N2 was added dropwise n-BuLi (1.6 M in hexanes, 15 ml). Thirty minutes after the addition was complete, the reaction mixture was allowed to warm to 0° C. and stirred for a further 30 minutes. Zinc chloride (0.5 M in THF, 48 ml) was added drop-wise, after a further 15 minutes palladium (0) tetrakis(triphenylphosphine) (100 mg) and 4-bromobenzotrifluoride (3.36 ml) were added and the reaction allowed to attain room temperature. The reaction mixture was warmed to 40° C. and stirred at this temperature for 3 hours. The reaction mixture was then cooled to room temperature and the solvents removed in vacuo. The residue was partitioned between and ether and the aqueous extract further washed with ether. The combined organic extracts were dried (MgSO4), filtered and evaporated to yield a brown oil. Purification by Biotage® chromatography eluting with cyclohexane yielded the title compound as a white solid.

reactant | 3-methylthiophene | 2.31 ml | CC1=CSC=C1 | C5H6S
reactant | n-BuLi | 1.6 M, 15 ml | [Li]CCCC
reactant | 4-bromobenzotrifluoride | 3.36 ml | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
solvent | THF | 75 ml | C1CCOC1 | C4H8O
catalyst | Zinc chloride | 0.5 M, 48 ml | [Cl-].[Zn+2].[Cl-]
catalyst | palladium (0) tetrakis(triphenylphosphine) | 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 4-methyl-2-[4-(trifluoromethyl)phenyl]thiophene | CC=1C=C(SC1)C1=CC=C(C=C1)C(F)(F)F | C12H9F3S
